Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fevers, abdominal pain
 
Major Surgical or Invasive Procedure:
___ Successful CT-guided placement of an ___ pigtail 
catheter into the left pelvic collection which is probably 
secondary to perforated diverticulitis. Samples were sent for 
microbiology evaluation. 

 
History of Present Illness:
___ G2P2 7 weeks out of Lap drainage of growing left ovarian
cyst and endometrial ablation. pt reports having constant fever
from ~ 10 days post op treated w/ NSAID. she presented today 
with
fever of 102 and sharp left abd pain that started 3 days ago. CT
scan at ___ demonstrates bilateral pelvic abscesses 
encasing
the sigma. 
of note: Pt has had daily fevers up to 101 since ___ and abd
pain that had just started a few days ago. 

she denies dysuria, abnormal vaginal discharge, vaginal 
bleeding.
Reports new onset constipation in last few weeks treated with Mg
citrate .

 
Past Medical History:
PMH:
HTN treated with 12.5 of HCTZ
Uterine fibroids
Lt ovarian cyst growing for the last ___

PSH:
Colonoscopy done ___ m ago - normal
Upper endoscopy ___ m ago- Gastritis(?) treated with PPI for 4
weeks
Motor boat accident at age of ___ with amputation of Lt arm
reimplanted in ___ 
She had ex lap without findings
 
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
Gen: Seems uncomfortable in bed seems in pain.
Lung : CTA b/l
Heart : RRR
Abd: soft, nondistended, pain to palpation in the LLQ and
moderate discomfort in RLQ. No peritoneal signs.
Rt hand dysfunctional s/p remote accident with reimlantation 
mid line abdominal scar from previous laparotomy and few old
scars over Rt post thoracic wall _ same accident (at the age of
___)
___: no signs of DVT or edema- well perfused

Discharge physical exam:
VS: 97.8PO 114 / 72 L Lying 80 18 96 Ra 
GEN: Awake alert pleasant and interactive.
HEENT: no deformity. PERRL, EOMI.
CV: RRR
PULM: Clear to auscultation bilaterally
ABD: Soft, non-tender, non-distended. JP drain to Left side 
abdomen with purulent drainage.
EXT: Warm and dry. 2+ ___ Pulses. No edema. Chronic scaring 
and deformity to LUE.
NEURO: Follows commands and moves all extremities equal and 
strong. Speech is clear and fluent. 
 
Pertinent Results:
CT Abdomen/Pelvis:
1. Multiloculated, somewhat serpentine fluid collection in the 
right adnexa collectively measures 7.3 x 5.4 cm containing 
multiple locule is of gas, suggesting tubo-ovarian abscess.  A 
possible focal defect is identified in the sigmoid wall, which 
also appears edematous and inflamed, suspicious for focal 
fistula. 
2. A separate fluid collection in the right adnexa measures 2.6 
x 3.3 cm 
however is not rim enhancing and may represent an adnexal cyst. 
3. Right middle lobe bronchiectasis and parenchymal scarring. 
4. Left upper lobe pulmonary emphysema. 
5. Multi fibroid uterus. 

___ 06:20AM BLOOD WBC-8.8 RBC-3.86* Hgb-11.0* Hct-33.0* 
MCV-86 MCH-28.5 MCHC-33.3 RDW-14.5 RDWSD-44.6 Plt ___
___ 06:50AM BLOOD WBC-10.7* RBC-3.71* Hgb-10.7* Hct-31.3* 
MCV-84 MCH-28.8 MCHC-34.2 RDW-14.3 RDWSD-43.8 Plt ___
___ 06:50AM BLOOD WBC-17.3* RBC-3.62* Hgb-10.4* Hct-31.1* 
MCV-86 MCH-28.7 MCHC-33.4 RDW-14.3 RDWSD-45.0 Plt ___
___ 05:50PM BLOOD WBC-26.7* RBC-3.41* Hgb-10.0* Hct-29.0* 
MCV-85 MCH-29.3 MCHC-34.5 RDW-14.2 RDWSD-44.2 Plt ___
___ 07:27PM BLOOD WBC-26.8* RBC-4.20 Hgb-12.4 Hct-36.1 
MCV-86 MCH-29.5 MCHC-34.3 RDW-14.3 RDWSD-44.6 Plt ___
___ 05:50PM BLOOD ___ PTT-27.1 ___
___ 07:27PM BLOOD ___ PTT-27.2 ___
___ 06:20AM BLOOD Glucose-90 UreaN-4* Creat-0.4 Na-144 
K-3.8 Cl-105 HCO3-28 AnGap-11
___ 06:50AM BLOOD Glucose-101* UreaN-3* Creat-0.3* Na-141 
K-3.5 Cl-104 HCO3-27 AnGap-10
___ 06:50AM BLOOD Glucose-76 UreaN-4* Creat-0.3* Na-143 
K-3.9 Cl-102 HCO3-25 AnGap-16
___ 05:50PM BLOOD Glucose-84 UreaN-<3* Creat-0.3* Na-140 
K-3.3 Cl-101 HCO3-25 AnGap-14
___ 07:27PM BLOOD Glucose-92 UreaN-4* Creat-0.4 Na-139 
K-3.8 Cl-100 HCO3-24 AnGap-15
___ 07:27PM BLOOD ALT-7 AST-10 AlkPhos-86 TotBili-0.5
___ 06:20AM BLOOD Calcium-8.4 Phos-3.6 Mg-2.0
___ 06:50AM BLOOD Calcium-8.2* Phos-3.0 Mg-1.9
___ 06:50AM BLOOD Calcium-8.5 Phos-3.5 Mg-1.7
___ 05:50PM BLOOD Calcium-8.4 Phos-3.3 Mg-1.5*

___ 2:15 pm ABSCESS      Source: Pelvis. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS 
AND
      CHAINS. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN 
CLUSTERS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Final ___: 
      STREPTOCOCCUS ANGINOSUS.    HEAVY GROWTH. 
         CLINDAMYCIN MIC >=1 MCG/ML. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STREPTOCOCCUS ANGINOSUS
                             |   
CEFTRIAXONE-----------  0.25 S
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------     2 R
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   0.5 S

   ANAEROBIC CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S).    HEAVY GROWTH. 

___ 7:15 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    10,000-100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 
 
Brief Hospital Course:
Ms. ___ is a ___ yo F who presented to the 
emergency department at outside hospital with increasing 
abdominal pain and fevers. History significant for laparoscopic 
drainage of left ovarian cyst 7 weeks prior to presentation. CT 
scan showed multiloculated pelvic abscess. She was made NPO, 
given IV fluids and IV antibiotics and admitted to the Acute 
Care Surgery service for further management.

Interventional radiology was consuled and underwent CT-guided 
placement of an ___ pigtail catheter into the left pelvic 
collection. 

On HD1 she was kept NPO with IV fluids and IV antibiotics. On 
HD2 her abdominal pain was improving and her white blood cell 
trended down from 26 to 17. On HD3 her abdominal pain was 
minimal and therefore she was given a clear liquid diet and 
antibiotics were transitioned to oral Augmentin. Her white blood 
cell count continued to trend to normal and she tolerated a 
regular diet without difficulty. Drain cultures positive for 
streptococcus anginosus sensitive to penicillin. Complete final 
cultures were still pending. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home with visiting 
nursing services. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*22 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
5.  Sodium Chloride 0.9%  Flush 10 mL IV Q8H drain 
flush drain 3x/day 
RX *sodium chloride 0.9 % 0.9 % ___rain three times a 
day Refills:*0 
6.  Hydrochlorothiazide 12.5 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
multiloculated pelvic abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
with fever and abdominal pain and found to have an abscess in 
your pelvis. You underwent placement of a drain and given 
antibitoics. Your white blood cell count, a measure of 
infection, decreased and your symptoms improved. You are now 
doing better, tolerating a regular diet, and ready to be 
discharged to home with visiting nursing to continue your 
recovery. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

Avoid driving or operating heavy machinery while taking pain 
medications.

JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain. Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
* Recommend:  flush 2 times a day with 10 cc normal saline. 
*Be sure to empty the drain frequently. Record the output each 
time you empty the drain and bring a record to your clinic 
appointment. 
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
 
 
Followup Instructions:
___